US07825253B2
4-Fluoro-N-[2-(2-methoxy-benzylamino)-quinolin-5-yl]-benzenesulfonamide
N-(2-Chloro-quinolin-5-yl)-4-fluoro-benzenesulfonamide (200 mg, 0.593 mmol) and 2-methoxybenzylamine (171 mg, 1.25 mmol) were stirred in a sealed tube at 120° C. overnight. The reaction mixture was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->50:50 gradient). The title compound was obtained as a yellow solid (87 mg, 33%), MS: m/e=438.1 ((M+H+).

reactant | N-(2-Chloro-quinolin-5-yl)-4-fluoro-benzenesulfonamide | 0.593 mmol, 200 mg | ClC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)C1=CC=C(C=C1)F | C15H10ClFN2O2S
reactant | 2-methoxybenzylamine | 1.25 mmol, 171 mg | COC1=C(CN)C=CC=C1 | C8H11NO
product | 4-Fluoro-N-[2-(2-methoxy-benzylamino)-quinolin-5-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC | C23H20FN3O3S
